US07449473B2
To a solution of N,N′ Dipropyl urea (10.0 g, 69.4 mmol) in pyridine (60 ml) was added acetic anhydride (21.6 ml, 229 mmol) and 4-(dimethylamino)pyridine (8.5 g, 69.4 mmol). The mixture was heated to 95° C. for 1.5 hours. The reaction mixture was cooled and the solvent was removed under vacuum. The residue was then dissolved in dichloromethane (200 ml) and washed with 2N HCl (2×60 ml) and saturated sodium bicarbonate (2×60 ml). The organic layer was concetrated and purified using column chromatography (2:1 Hexane:Ethyl Acetate) to yield 6-methyl-1,3-dipropyl-1,3-dihydropyrimidine-2,4-dione(4.0 g, M+1=210.92)

reactant | N,N′ Dipropyl urea | 69.4 mmol, 10.0 g | C(CC)NC(=O)NCCC | C7H16N2O
reactant | acetic anhydride | 229 mmol, 21.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | 69.4 mmol, 8.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-methyl-1,3-dipropyl-1,3-dihydropyrimidine-2,4-dione | 4.0 g | CC1=CC(N(C(N1CCC)=O)CCC)=O | C11H18N2O2
